US08389555B2
STEP E: Preparation of N-(4-(4,5,6,7-tetrahydrobenzothiazol-6-ylamino)butyl)benzothiazole-2-carboxamide (63)
To a solution of 339 mg (1.4 mmol) N-(4-hydroxybutyl)benzothiazole-2-carboxamide, 198 mg (1.2 mmol) 4,5,6,7-tetrahydro-benzothiazol-6-yl-amine and 210 mg (1.6 mmol) DIPEA in 6 mL of propionitrile is added 0.39 g (1.6 mmol) cyanomethyltrimethylphosphonium iodide under argon. The mixture is heated for 2 hours at 90° C. After cooling down to room temperature 10 mL of saturated NaHCO3 solution and 20 mL of CH2Cl2 are added. The organic phase is extracted with 10 mL of water three times. After drying and removing of the solvent in vacuum the brown oil received is purified via silica gel chromatography.

reactant | N-(4-hydroxybutyl)benzothiazole-2-carboxamide | 1.4 mmol, 339 mg | OCCCCNC(=O)C=1SC2=C(N1)C=CC=C2 | C12H14N2O2S
reactant | 4,5,6,7-tetrahydro-benzothiazol-6-yl-amine | 1.2 mmol, 198 mg | S1C=NC2=C1CC(CC2)N | C7H10N2S
reactant | DIPEA | 1.6 mmol, 210 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | cyanomethyltrimethylphosphonium iodide | 1.6 mmol, 0.39 g | [I-].C(#N)C[P+](C)(C)C
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | propionitrile | 6 mL | C(CC)#N | C3H5N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(4,5,6,7-tetrahydrobenzothiazol-6-ylamino)butyl)benzothiazole-2-carboxamide | S1C=NC2=C1CC(CC2)NCCCCNC(=O)C=2SC1=C(N2)C=CC=C1 | C19H22N4OS2
